US04634710
A solution of 560 mg of potassium hydroxide in 1.4 ml of methanol and a solution of 700 mg of hydroxylamine hydrochloride in 3.6 ml of methanol were mixed together at 40°, whereupon the mixture was stirred for 30 minutes and 300 mg of 5,7-dihydro-2[[(4-methoxy-3-methyl-2-pyridyl)methyl]thio]-5,5,7,7-tetramethylindeno[5,6-d]imidazol-6(1H)-one were added thereto. The reaction mixture was stirred at 40° under argon for 3 days and then concentrated and treated with methylene chloride/water. The methylene chloride solution was separated, dried, filtered and evaporated. The residue was chromatographed twice on silica gel with methylene chloride/methanol (9:1), the medium pressure flash chromatography method being used and the pressure being produced with nitrogen gas. 5,7-Dihydro-2-[[(4-methoxy-3-methyl-2-pyridyl)methyl]thio]-5,5,7,7-tetramethyl indeno[5,6-d]imidazol-6(1H)-one oxime was obtained. After recrystallization from ethyl acetate the product melts at 160° with decomposition.

reactant | potassium hydroxide | 560 mg | [OH-].[K+]
reactant | hydroxylamine hydrochloride | 700 mg | Cl.NO
reactant | 5,7-dihydro-2[[(4-methoxy-3-methyl-2-pyridyl)methyl]thio]-5,5,7,7-tetramethylindeno[5,6-d]imidazol-6(1H)-one | 300 mg | COC1=C(C(=NC=C1)CSC1=NC2=C(N1)C=C1C(C(C(C1=C2)(C)C)=O)(C)C)C | C22H25N3O2S
solvent | methanol | 1.4 ml | CO | CH4O
solvent | methanol | 3.6 ml | CO | CH4O
product | 5,7-Dihydro-2-[[(4-methoxy-3-methyl-2-pyridyl)methyl]thio]-5,5,7,7-tetramethyl indeno[5,6-d]imidazol-6(1H)-one oxime | COC1=C(C(=NC=C1)CSC1=NC2=C(N1)C=C1C(C(C(C1=C2)(C)C)=NO)(C)C)C | C22H26N4O2S
